US09216993B2
A solution of 1.2 g of 3-benzyl-7-oxa-3-azabicyclo[4.1.0]heptane (6.3 mmol) was refluxed in the presence of 0.62 g of sodium azide (9.5 mmol) and 3 g of lithium perchlorate (19 mmol) for 4 hs. After completion reaction mixture was evaporated and the residue was extracted with dichloromethane, washed with water and combined organic fractions were dried over sodium sulfate and concentrated. The residue was purified on silica gel column using hexane-ethyl acetate 4:1 as eluent affording 980 mg of trans-4-azido-1-benzylpiperidin-3-ol.

reactant | 3-benzyl-7-oxa-3-azabicyclo[4.1.0]heptane | 6.3 mmol, 1.2 g | C(C1=CC=CC=C1)N1CC2OC2CC1 | C12H15NO
reactant | sodium azide | 9.5 mmol, 0.62 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium perchlorate | 19 mmol, 3 g | Cl(=O)(=O)(=O)[O-].[Li+]
product | trans-4-azido-1-benzylpiperidin-3-ol | 980 mg | N(=[N+]=[N-])[C@H]1[C@@H](CN(CC1)CC1=CC=CC=C1)O | C12H16N4O
